US05527819
5-Chloro-3-phenylsulfonylindole-2-thiocarboxamide
Reaction of 5-chloro-3-phenylsulfonylindole-2-carboxamide with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane (Lawesson's reagent) according to the procedure of Example 18 gave the title compound. Chromatographic purification on silica gel was carried out using 30% ethyl acetate-methylene chloride, followed by 50% ethyl acetate-methylene chloride. The pure product had mp 207°-210° C. Anal. calcd for C15H11ClN2O2S2 : C, 51.35; H, 3.16; N, 7.98. Found: C, 50.84; H, 3.08; N, 8.04. NMR (DMSO-d6) δ12.90 (1H, s), 10.71 (1H, s), 10.70 (1H, s), 8.0-8.6 (2H, m), 7.84 (1H, d, J=2 Hz), 7.54-7.66 (3H, m), 7.46 (1H, d, J=8.5 Hz), 7.30 (1H, dd, J=8.5, 2 Hz).

reactant | 5-chloro-3-phenylsulfonylindole-2-carboxamide | ClC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)C1=CC=CC=C1 | C15H11ClN2O3S
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane | COC1=CC=C(C=C1)P1SP(S1)C1=CC=C(C=C1)OC | C14H14O2P2S2
product | 5-Chloro-3-phenylsulfonylindole-2-thiocarboxamide | ClC=1C=C2C(=C(NC2=CC1)C(N)=S)S(=O)(=O)C1=CC=CC=C1 | C15H11ClN2O2S2
